US07122580B2
3-Hydroxy-naphthalene-2-carboxylic acid (2-biphenyl-4yl-ethyl)-amide
To 0.05 g (0.1 mmol) of above resin-bound N-2-(4-Bromophenyl)ethyl-3 hydroxyl-2-naphthamide in 2.0 mL of DME were added 36.6 mg (0.3 mmol) of phenylboronic acid, 30 mg (0.03 mmol) of Pd(PPh3)4, and 0.3 mL (0.6 mmol) of 2N Na2CO3 solution. The mixture was heated to 80° C. for 12 h. The resin was washed with H2O, DMF, MeOH, DCM three times of each and cleaved with TMSBr/TFA/DCM (1:1:5) at rt for 4 h. The residue obtained after removing the solvent was purified by chromatography (100% methylene chloride) to give 22 mg (60%) of the title compound.

reactant | N-2-(4-Bromophenyl)ethyl-3 hydroxyl-2-naphthamide | BrC1=CC=C(C=C1)CCNC(=O)C1=CC2=CC=CC=C2C=C1O | C19H16BrNO2
reactant | phenylboronic acid | 0.3 mmol, 36.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 0.6 mmol, 2N, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Hydroxy-naphthalene-2-carboxylic acid (2-biphenyl-4yl-ethyl)-amide | 22 mg, 60% | C1(=CC=C(C=C1)CCNC(=O)C1=CC2=CC=CC=C2C=C1O)C1=CC=CC=C1 | C25H21NO2
